US07531545B2
Step C: 3,N-Dimethyl-2-[(5-nitro-2-phenoxy-pyridin-4-ylmethyl)-amino]-N-phenethyl-butyramide
A mixture of 2-amino-3,N-dimethyl-N-phenethyl-butyramide (1.5 g, 6.48 mmol), 5-nitro-2-phenoxy-pyridine-4-carbaldehyde (1.5 g, 6.1 mmol), dichloromethane (75 mL), and THF (75 mL) was stirred for 5 hrs. Sodium triacetoxyborohydride (3.0 g, 14.25 mmol) was then added and the resulting mixture was stirred 16 hrs. Sodium hydroxide solution ([0.1 N], 100 mL) was added, the organic layer was separated, treated with MgSO4, filtered and the solvent evaporated to yield an oil. The oil was purified by column chromatography (10%-40% ethyl acetate/heptane) to yield a residue.

reactant | 2-amino-3,N-dimethyl-N-phenethyl-butyramide | 6.48 mmol, 1.5 g | NC(C(=O)N(CCC1=CC=CC=C1)C)C(C)C | C14H22N2O
reactant | 5-nitro-2-phenoxy-pyridine-4-carbaldehyde | 6.1 mmol, 1.5 g | [N+](=O)([O-])C=1C(=CC(=NC1)OC1=CC=CC=C1)C=O | C12H8N2O4
reactant | Sodium triacetoxyborohydride | 14.25 mmol, 3.0 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Sodium hydroxide | 0.1 N, 100 mL | [OH-].[Na+]
solvent | THF | 75 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
product | 3,N-Dimethyl-2-[(5-nitro-2-phenoxy-pyridin-4-ylmethyl)-amino]-N-phenethyl-butyramide | CC(C(C(=O)N(CCC1=CC=CC=C1)C)NCC1=CC(=NC=C1[N+](=O)[O-])OC1=CC=CC=C1)C | C26H30N4O4
